US04166115
Ethyl 2-(2-t-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetate (0.3 g.) and selenium dioxide (0.11 g.) were treated according to a similar manner to that of Preparation (6-4) to give brown oil of ethyl 2-(2-t-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylate (0.22 g.).

reactant | Ethyl 2-(2-t-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetate | 0.3 g | C(C)(C)(CC)OC(=O)NC=1SC=C(N1)CC(=O)OCC | C13H20N2O4S
reactant | selenium dioxide | 0.11 g | [Se](=O)=O | O2Se
product | ethyl 2-(2-t-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylate | 0.22 g | C(C)(C)(CC)OC(=O)NC=1SC=C(N1)C(C(=O)OCC)=O | C13H18N2O5S
